US04771046
A solution of 4.52 g of trichloroacetyl isocyanate in 8 ml of methylene chloride was added to an ice-cooled solution of 3.75 g of (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine in 40 ml of methylene chloride, and the mixture was stirred for 30 minutes with ice-cooling. After completion of the reaction, the solvent was stripped off from the reaction mixture and the residue was dissolved in 100 ml of methanol. The solution was stirred with 35 g of silica gel for 5 hours at 30° C., and then filtered. The filtrate was concentrated, giving 3.05 g of (3R)-1-(t-butoxycarbonyl)-3-carbamoyloxypyrrolidine.

reactant | trichloroacetyl isocyanate | 4.52 g | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | (3R)-1-(t-butoxycarbonyl)-3-hydroxypyrrolidine | 3.75 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
solvent | methylene chloride | 8 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | (3R)-1-(t-butoxycarbonyl)-3-carbamoyloxypyrrolidine | 3.05 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OC(N)=O | C10H18N2O4
